* Created by KLayout

* cell INV_X12
* pin A
* pin Y
* pin vdd
* pin gnd
.SUBCKT INV_X12 A Y vdd gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 Y A vdd vdd PMOS_mst L=1U W=122.4U AS=196.86P AD=196.86P PS=171.2U PD=171.2U
* device instance $13 r0 *1 6.1,6.8 NMOS_mst
M$13 Y A gnd gnd NMOS_mst L=1U W=40.8U AS=65.62P AD=65.62P PS=82.8U PD=82.8U
.ENDS INV_X12
